US07737145B2
A solution of 2-[4-[(4-methoxyphenyl)methyl]phenyl]oxazole (0.4 g, 1.5 mmol) in dichloromethane (15 mL) was stirred and cooled to −78° C. as a solution of borontribromide in dichloromethane (1 N, 15 mL, 15 mmol) was added over 5 minutes. The cooling bath was removed and the reaction was allowed to warm to ambient temperature over 3 days. The reaction was diluted with methanol and concentrated, repeat twice. Purification on silica gel using a gradient of ethyl acetate in dichloromethane and hexane gave 0.22 g of 4-[[4-(2-oxazolyl)phenyl]methyl]phenol, 1H NMR (400 MHz, DMSO-d6) δ 9.19 (S, 1H), 8.17 (s, 1H), 7.88 (s, 2H), 7.35 (d, 2H), 7.02 (s, 2H), 6.66 (d, 2H), 3.84 (s, 2H).

reactant | 2-[4-[(4-methoxyphenyl)methyl]phenyl]oxazole | 1.5 mmol, 0.4 g | COC1=CC=C(C=C1)CC1=CC=C(C=C1)C=1OC=CN1 | C17H15NO2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mmol, 1 N, 15 mL | ClCCl | CH2Cl2
product | 4-[[4-(2-oxazolyl)phenyl]methyl]phenol | 0.22 g | O1C(=NC=C1)C1=CC=C(C=C1)CC1=CC=C(C=C1)O | C16H13NO2
